US05102873
Adenosine-N1 -oxide (1a).
In a 1-L round-bottomed flask protected with a calcium sulfate drying tube was placed a 5.0 g (18.7 mmol) of adenosine and 500 mL of methanol. The mixture was stirred at room temperature and 4.85 g (22.5 mmol) of m-chloroperoxybenzoic acid (MCPBA) was added in 7-10 portions over 2 hours. If thin-layer chromatography after 15-20 hours of stirring indicates the presence of starting material an additional 0.5 g (2.9 mmol) of MCPBA should be added and the reaction stirred an additional 4 hours. If the TLC continues to show starting material another portion of MCPBA must be added and the stirring continued overnight. After the TLC showed little or no starting material left the reaction mixture was poured slowly in 2 L of ethyl acetate with good stirring. After having been stirred 2 hours, the product was collected, washed with ethyl acetate, and dried in vacuo over phosphorus pentoxide: yield 4.6 g. Melting point and elemental analysis data are set forth in Table I.

reactant | adenosine | 18.7 mmol, 5.0 g | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(N)=NC=NC12 | C10H13N5O4
reactant | methanol | 500 mL | CO | CH4O
reactant | m-chloroperoxybenzoic acid | 22.5 mmol, 4.85 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | MCPBA | 2.9 mmol, 0.5 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | ethyl acetate | 2 L | C(C)(=O)OCC | C4H8O2
product | Adenosine-N1 -oxide | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC2=C(N)[N+](=CN=C12)[O-] | C10H13N5O5
